US06255494B1
Preparation of 4-(3-bromopropoxy)-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole
A solution of 1,3-dibromopropane (41.3 mg, 0.3 mmol, 1.5 eq) in anhydrous N,N-dimethylformamide (2 ml) was treated with a solution of 4-hydroxy-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole (100 mg, 0.2 mmol, 1 eq) in anhydrous N,N-dimethylformamide (1 ml). The resulting mixture was stirred for twelve hours. The reaction was quenched by the addition of water (10 ml). The aqueous fraction was extracted with diethyl ether (3×10 ml). The organic fractions were combined, washed with water (3×10 ml), and brine (1×10 ml), and then dried over sodium sulfate. The solvents were removed in vacuo. The residue was subjected to column chromatography to yield the desired title product as a white crystalline product.

reactant | 1,3-dibromopropane | 0.3 mmol, 41.3 mg, 1.5 eq | BrCCCBr | C3H6Br2
reactant | 4-hydroxy-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole | 0.2 mmol, 100 mg, 1 eq | OC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)C(=O)OC(C)(C)C | C27H34ClN3O4
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(3-bromopropoxy)-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole | Yield: 80% | BrCCCOC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)C(=O)OC(C)(C)C | C30H39BrClN3O4
